US07541498B2
Di(p-tolyl)phosphine oxide
In a stream of nitrogen, a solution of magnesium (58.41 g, 3.48 equivalents), a slight amount of iodine and 1,2-dibromoethane in tetrahydrofuran (400 mL) was stirred at room temperature for 1 hour. After addition of a solution of p-bromotoluene (411.11 g, 3.48 equivalents) in tetrahydrofuran (2000 mL) at 22° C., the mixture was stirred at 40° C. for 1 hour. Then, after addition of a solution of diethyl phosphite (94.76 g, 0.69 mol) in tetrahydrofuran (160 mL) at 20° C., the mixture was stirred at 24° C. for 30 minutes. 6M-HCl (320 mL) was added thereto at 4° C., followed by further addition of water (320 mL) and toluene (1000 mL), and the resulting mixture was stirred at a room temperature for 30 minutes. The reaction mixture was separated into layers, and the organic layer was successively washed with water (320 mL), an aqueous 5% NaHCO3 solution (320 mL) and an aqueous 5% NaCl solution (320 mL). The organic layer was filtered under reduced pressure, and the filtrate was concentrated under reduced pressure. The residue was recrystallized from n-hexane and dried (under reduced pressure at 40° C.) to obtain the titled compound (87.12 g, white powder). The yield was 54.8%.

reactant | magnesium | 58.41 g, 3.48 equivalents | [Mg] | Mg
reactant | iodine | II | I2
reactant | 1,2-dibromoethane | BrCCBr | C2H4Br2
reactant | p-bromotoluene | 411.11 g, 3.48 equivalents | BrC1=CC=C(C=C1)C | C7H7Br
reactant | diethyl phosphite | 0.69 mol, 94.76 g | P(OCC)(OCC)[O-]
reactant | HCl | 320 mL | Cl | ClH
solvent | tetrahydrofuran | 400 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2000 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 160 mL | O1CCCC1 | C4H8O
solvent | toluene | 1000 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 320 mL | O | H2O
product | Di(p-tolyl)phosphine oxide | 87.12 g, yield was 54.8% | C1(=CC=C(C=C1)P(C1=CC=C(C=C1)C)=O)C | C14H15OP
